Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Left frontal IPH; Right SDH
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: ___ male with past medical history significant for
CAD with stents, + pacemaker, hyperthyroidism, vertigo, ___ 
body
dementia, on aspirin/Plavix presents with fall. Patient reports
he took a fall around midnight last night (24 hours ago) when he
got tripped up and had vertigo in his room and hit his head. He
lives in assisted living. He denies any further fall since that
time, however there is report of 3 falls in the past 24 hours,
with the most recent one earlier this evening.  

 
Past Medical History:
PMHx:
CAD with cardiac stents on Plavix and asa
Hyperthyroidism
Vertigo
Hypertension
BPH
 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
O: T:98.3  BP: 111/78, P 60, R 16 
Gen: WD/WN, comfortable in C-Collar NAD.
HEENT: Pupils:  2.5 min reactive  EOMs full
Neck: In collar  Supple.
Lungs: CTA bilaterally.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension 
Cranial Nerves:
I: Not tested
II: Pupils equally round and min reactive to light 2.5 mm 
bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch.

Toes downgoing bilaterally.

PHYSICAL EXAMINATION ON DISCHARGE:
Sleepy in early AM which has been his baseline.
Opens eyes to voice.  ___ x ___ with options self, year, city.
PERRLA ___.  EOMs intact.  Left eye ecchymosis.
CN II-XII intact.
LS clear
RRR
Abdomen soft, NTND.
___ BUE and BLE. No drift

 
Pertinent Results:
Please see OMR for pertinent lab and imaging studies. 
 
Brief Hospital Course:
#Left IPH; R SDH
The patient was transferred to ___ from ___ after falling and 
sustaining a left IPH and right SDH on ___. He received 
platelets for recent administration of ASA and Plavix. He was 
admitted to the ___ for close monitoring. On ___ the patient 
underwent a repeat NCHCT which was stable. He was transferred to 
the floor on ___ and evaluated by ___ and OT who recommended 
rehab placement.  The patient remained stable on ___ and ___.  
He was discharged to rehab and will follow up as an outpatient 
in 4 weeks with a repeat Head CT.
 
Medications on Admission:
Levothryoxine 150mcg daily
ASA 81mg daily
Plavix 75mg daily
Memantine 10mg daily
Midodrine 2.5mg (not on this medication per PCP ___ ___
Lipitor 40mg QPM
Quetiapine 25mg QPM
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Heparin 5000 UNIT SC BID  
4.  LevETIRAcetam 500 mg PO Q12H Duration: 7 Days - continue 
through ___
5.  Senna 8.6 mg PO BID:PRN constipation  
6.  Atorvastatin 40 mg PO QPM  
7.  Levothyroxine Sodium 150 mcg PO DAILY  
8.  Memantine 10 mg PO DAILY  
9.  QUEtiapine Fumarate 25 mg PO QHS:PRN agitation  
10.  Sertraline 50 mg PO DAILY 
11.  ___ restart home ASA and home Plavix on ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
TBI
Left frontal ___

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Discharge Instructions

Traumatic Brain Injury

Surgery
•*** You underwent a surgery called a craniotomy to have blood 
removed from your brain. 
•*** You underwent a surgery called a craniectomy. A portion of 
your skull was removed to allow your brain to swell. You must 
wear a helmet when out of bed at all times.
•*** You had a thin catheter in your brain that helped the 
neurosurgeon monitor the pressure and oxygen level in your 
brain. 
•Please keep your sutures or staples along your incision dry 
until they are removed.
•It is best to keep your incision open to air but it is ok to 
cover it when outside. 
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•You make take a shower 3 days after surgery. 
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon.  
You have been approved to restart your ASA and Plavix on 
___. 
•***You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. You should take this for a total of 7 days and can be 
stopped if there is no seizure activity as of ___.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
•Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
•You were given information about headaches after TBI and the 
impact that TBI can have on your family.
•If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___